US04115059
N-benzoylsulfanilyl chloride was prepared as starting material for N-benzoylsulfanilyl fluoride in the following manner: A 15 gm (0.076 mole) portion of benzanilide was added with stirring to 26 ml (0.38 mole) of chlorosulfonic acid at 0° C. The mixture was then allowed to stir at 60° C for two hours, then cooled to room temperature and poured into ca 200 gm of ice. The sulfonyl chloride was recovered by filtration and recrystallized from chlorobenzene, giving 9.1 gm (41% yield) with mp 176°-178° C. The assigned structure was in agreement with the chemical analysis and the NMR and IR spectra.

reactant | N-benzoylsulfanilyl fluoride | C(C1=CC=CC=C1)(=O)NC1=CC=C(S(=O)(=O)F)C=C1 | C13H10FNO3S
reactant | benzanilide | C(C1=CC=CC=C1)(=O)NC1=CC=CC=C1 | C13H11NO
reactant | chlorosulfonic acid | 0.38 mole, 26 ml | ClS(=O)(=O)O | ClHO3S
product | N-benzoylsulfanilyl chloride | 41% yield | C(C1=CC=CC=C1)(=O)NC1=CC=C(S(=O)(=O)Cl)C=C1 | C13H10ClNO3S
